US05576340
2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3-phenoxyphenyl)ethanol (Compound No. 3-26)
Following a procedure similar to that described in Example 6, but using 2 g of 2-amino-1-(3-phenoxyphenyl)ethanol (prepared as described in Preparation 15), 3.4 g of methyl 4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 3), 70 ml of benzene, 60 ml of absolute methanol and 3.7 g of sodium cyanoborohydride, 1.27 g of the title compound were obtained having an Rf=0.26 (thin layer chromatography over silica gel, using ethyl acetate as the developing solvent).

reactant | 2-amino-1-(3-phenoxyphenyl)ethanol | 2 g | NCC(O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C14H15NO2
reactant | methyl 4-(2-oxopropoxy)phenylacetate | 3.4 g | O=C(COC1=CC=C(C=C1)CC(=O)OC)C | C12H14O4
reactant | benzene | 70 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 3.7 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3-phenoxyphenyl)ethanol | 1.27 g | COC(=O)CC1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)OC2=CC=CC=C2)C=C1 | C26H29NO5
